US05807862
This example is a method of synthesis for inventive compound no. 3508. Triphenylphosphine (5.24 g, 20 mmol) was added incrementally to a solution of oleyl alcohol (5.37 g, 20 mmol) and carbontetrabromide (6.63 g, 20 mmol) in 400 ml of dichloromethane, the resulting reaction mixture being stirred for an hour at room temperature. Removing the solvent under reduced pressure, left a residue, which was extracted with three 200 ml aliquots of hexane. Further purification by flash chromatography over silica gel using a hexane eluant produced 5.82 g of 1-bromo-9-octadecene (88% yield).

reactant | Triphenylphosphine | 20 mmol, 5.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | oleyl alcohol | 20 mmol, 5.37 g | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
reactant | carbontetrabromide | 20 mmol, 6.63 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 1-bromo-9-octadecene | 5.82 g, 88% yield | BrCCCCCCCCC=CCCCCCCCC | C18H35Br
